Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amiodarone Analogues / Keflex / Bactrim
 
Attending: ___.
 
Chief Complaint:
Disorientation 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ woman with Afib (on apixaban), MR,
GERD, and OA presenting with altered mental status and
hypotension. 

On ___, she was reportedly seen by outpatient
cardiologist (Dr. ___ where blood pressures were 
90/60s
(baseline 120/70s). TTE was reportedly normal with LVEF 60%, and
she was started on digoxin 125mg bid at that time, and was
continued on home lisinopril half of 2.5 mg qd, diltiazem 180 
qd,
aspirin, atorvastatin, spironolactone. 

On ___ at ~0400AM, the patient's daughter found her in the
kitchen eating cookies because she thought she missed lunch. At
baseline, the patient is fully oriented and able to care for 
self
independently during day while daughter is at work; however, 
over
the past few days, the patient reported feeling "off", with 
cough
and runny nose for the past week. 

She was brought in to ___ and had CXR concerning for
new CHF, BMP 2200, no UTI. Patient received albuterol, steroids
and was transferred to ___. 

Patient denies any pain, shortness of breath, change in baseline
leg swelling, fever/chills, URI symptoms, dysuria.

 
Past Medical History:
Atrial fibrillation
GERD
Mitral regurgitation 
Osteoarthritis 
Uterine prolapse
Sciatica 
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION EXAM:
================
VITALS: T 97.3F PO BP 93/63 HR 86 RR 18 O2 95 RA 
GENERAL: Alert and interactive. Oriented to self and ___. In 
no
acute distress. 
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: JVD just above clavicle. 
CARDIAC: Irregularly irregular. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Bibasilar crackles. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: 3+ pitting edema to mid-shins bilaterally. 
SKIN: Warm. 
NEUROLOGIC: AOx2. CN2-12 intact. Moving all 4 limbs
spontaneously. 

DISCHARGE EXAM:
===============
VITALS: ___ 0705 Temp: 98.1 PO BP: 109/72 L Lying HR: 84 
RR:
18 O2 sat: 97% O2 delivery: Ra Weight: 116.9 lbs (___) --> 113.5
lbs (___)
GENERAL: Well-appearing elderly woman, in NAD
HEENT: NC/AT, EOMI, sclera anicteric and without injection, MMM
NECK: JVD not appreciated
CARDIAC: Irregularly irregular, III/VI systolic murmur heard 
best
at RUSB
LUNGS: Fine bibasilar crackles, breathing comfortably on RA
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: 2+ pitting edema to mid-shins bilaterally 
SKIN: Warm, well-perfused, no rashes
NEUROLOGIC: Alert, oriented to person/place, does not know year
 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:02PM BLOOD WBC-5.4 RBC-3.66* Hgb-11.5 Hct-34.8 
MCV-95 MCH-31.4 MCHC-33.0 RDW-13.2 RDWSD-45.8 Plt ___
___ 04:02PM BLOOD Neuts-91.6* Lymphs-4.6* Monos-3.0* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-4.93 AbsLymp-0.25* 
AbsMono-0.16* AbsEos-0.01* AbsBaso-0.01
___ 04:02PM BLOOD Glucose-144* UreaN-24* Creat-1.4* Na-135 
K-4.4 Cl-97 HCO3-23 AnGap-15
___ 04:02PM BLOOD Digoxin-0.7
___ 05:56PM BLOOD Lactate-1.4

INTERVAL LABS:
===============
___ 05:54AM BLOOD Digoxin-0.8

MICROBIOLOGY:
==============
- ___ Blood cx: Pending, NGTD

IMAGING/DIAGNOSTICS:
====================
Chest Xray ___
There is unchanged cardiomegaly.  Lungs are hyperexpanded likely 
due to 
emphysema.  There are patchy interstitial densities throughout 
both lung 
fields which are stable since the ___ study but worse 
since the ___ study.  This ___ represent mild acute 
pulmonary edema superimposed on  baseline interstitial lung 
disease. 

DISCHARGE LABS:
=================
___ 06:06AM BLOOD Glucose-87 UreaN-25* Creat-1.3* Na-141 
K-4.2 Cl-104 HCO3-26 AnGap-11
___ 06:06AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.1

 
Brief Hospital Course:
Ms. ___ is a ___ year-old female with history of atrial 
fibrillation (on apixaban) who presented with toxic metabolic 
encephalopathy and hypotension, found to have acute kidney 
injury secondary to acute tubular necrosis and likely 
digoxin-induced encephalopathy. 

ACUTE ISSUES:
=====================
# Acute Kidney Injury
Presented with Cr 1.6 from baseline 0.8-1.0. Nephrology 
consulted and urine sediment notable for muddy brown casts, 
consistent with acute tubular necrosis. Etiology likely due to 
prolonged hypotension in setting of antihypertensive 
medications. Cr slowly improved with supportive measures. Home 
Lisinopril and spironolactone discontinued on discharge. 

# Toxic metabolic encephalopathy
Somewhat more confused on initial presentation. Felt likely 
secondary to digoxin (newly introduced on ___. Infectious and 
toxic metabolic work-up otherwise unremarkable. Digoxin level 
therapeutic at 0.7-0.8, but dose decreased due to renal injury 
(as above). Mental status improving on discharge. 

# Atrial fibrillation
Rates well controlled throughout admission. Home diltiazem 
initially held given hypotension on presentation, restarted on 
___ at reduced dose. Home digoxin initially held pending level 
(came back therapeutic at 0.7), then re-started at reduced dose 
given renal injury. Continued on home apixiban. 

CHRONIC ISSUES:
====================
# Hyperlipidemia: Continued rosuvastatin 40 mg PO daily.

# Hypertension: Held home lisinopril and spironolactone given 
___ and hypotension. 

# Sciatica: Held home gabapentin in the setting ___ and 
altered mental
status. 

TRANSITIONAL ISSUES:
=====================
[] Discharge Cr 1.3
[] Please repeat Cr at follow-up with PCP to ensure resolution 
___ 
[] Please adjust digoxin dosage as needed as renal function 
improves; please also discuss whether this medication should be 
continued given concern that it ___ have caused her altered 
mental status 
[] Please follow-up HRs and uptitrate diltiazem as needed 
(caution given new ___ secondary to hypotension)
[] Follow-up blood pressure; goal MAP > 65 given ___ ___ ATN 

# CODE: DNR/DNI (confirmed with ___
# HCP: ___, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 200 mg PO QHS 
2. Diltiazem Extended-Release 180 mg PO DAILY 
3. Apixaban 2.5 mg PO BID 
4. Spironolactone 37.5 mg PO DAILY 
5. Rosuvastatin Calcium 40 mg PO QPM 
6. Digoxin 0.25 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Digoxin 0.125 mg PO DAILY 
9. Lisinopril 1.25 mg PO DAILY 

 
Discharge Medications:
1.  Digoxin 0.0625 mg PO DAILY 
RX *digoxin [Lanoxin] 62.5 mcg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Diltiazem Extended-Release 90 mg PO DAILY 
RX *diltiazem HCl 90 mg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*0 
3.  Apixaban 2.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Rosuvastatin Calcium 40 mg PO QPM  
6. HELD- Gabapentin 200 mg PO QHS  This medication was held. Do 
not restart Gabapentin until you see your primary care doctor 
and confirm that your kidney function has improved
7. HELD- Spironolactone 37.5 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until you discuss with your 
cardiologist and your kidney function improves

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
===================
Toxic metabolic encephalopathy 
Acute Tubular Necrosis

SECONDARY DIAGNOSIS:
===================
Atrial Fibrillation
Hyperlipidemia
Hypertension
Sciatica

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted to the hospital because your family was 
worried that you were more confused, and your blood pressure was 
lower than usual.
  
What was done for me while I was in the hospital?  
- You were treated with IV fluids to help improve your blood 
pressure.
- Your digoxin dose was reduced. We think this medication ___ 
have caused your confusion, and you should discuss this further 
with your cardiologist.  
- You had labs drawn that showed you had a new kidney injury. 
The kidney doctors were ___ and ___ that your kidney 
injury was due to your low blood pressure and one of your new 
medications (Lisinopril). This medication was stopped and your 
blood pressures improved. Your kidney function slowly started to 
improve, too! 
- You were given a medication called Ramelteon to help improve 
your sleep.

What should I do when I leave the hospital?  
- You should continue taking all your medications as prescribed 
and attend all your follow-up appointments (information below). 

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___